US09376454B2
Step 1. Synthesis of methyl 2-(6-chloropyridin-3-yl)acetate
To a stirred solution of MeOH (25 mL) was added slowly acetyl chloride (3.5 mL). After 30 min, 2-(6-chloropyridin-3-yl)acetic acid (2.5 g) was added and the resulting reaction mixture stirred at room temperature for 2 hr. Solvents were then removed. The residue was dissolved in EtOAc and washed with 10% NaHCO3. The organic phase was dried and concentrated to afford the product (2.5 g).

reactant | acetyl chloride | 3.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | 2-(6-chloropyridin-3-yl)acetic acid | 2.5 g | ClC1=CC=C(C=N1)CC(=O)O | C7H6ClNO2
solvent | MeOH | 25 mL | CO | CH4O
product | methyl 2-(6-chloropyridin-3-yl)acetate | 2.5 g | ClC1=CC=C(C=N1)CC(=O)OC | C8H8ClNO2
